US04213987
To a solution of 2.0 g (0.01 mol) of 2,4-dichloroquinazoline in 50 ml of benzene were added 1.0 g (0.01 mol) of triethylamine and 1.8 g (0.01 mol) of 2,2-dimethyl-2-(4-methylphenoxy)-ethylamine and the mixture was stirred at an ambient temperature for 4 hours. After completion of the reaction, the benzene was evaporated under reduced pressure, and the residue was dissolved in chloroform, washed with water and dried over anhydrous sodium sulfate. The chloroform was removed by evaporation under reduced pressure to leave crystals, which were recrystallized from benzene/hexane, affording 2.3 g of 2-chloro-4-[2,2-dimethyl-2-(4-methylphenoxy)ethyl]-aminoquinazoline in the form of a colorless fine powder.

reactant | 2,4-dichloroquinazoline | 0.01 mol, 2.0 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | triethylamine | 0.01 mol, 1.0 g | C(C)N(CC)CC | C6H15N
reactant | 2,2-dimethyl-2-(4-methylphenoxy)-ethylamine | 0.01 mol, 1.8 g | CC(CN)(OC1=CC=C(C=C1)C)C | C11H17NO
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-4-[2,2-dimethyl-2-(4-methylphenoxy)ethyl]-aminoquinazoline | 2.3 g | ClC1=NC2=CC=CC(=C2C(=N1)CC(OC1=CC=C(C=C1)C)(C)C)N | C19H20ClN3O
